US04954518
3-Amino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was reacted with N,N-dimethylformamide dimethylacetal to obtain 3-(N,N-dimethylamino)methyleneamino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 3-Amino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | NC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C16H14N2O5S
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 3-(N,N-dimethylamino)methyleneamino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | CN(C)C=NC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C19H19N3O5S
